US08022063B2
{4-Bromo-2-[2-(3-methoxybenzyl)oxazol-4-yl]phenoxy}acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and 2-(3-methoxyphenyl)acetamide according to GP5 and GP3: LC/MS (an 10p8) Rt 2.45 min, m/z 418 [M+H]+.

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | 2-(3-methoxyphenyl)acetamide | COC=1C=C(C=CC1)CC(=O)N | C9H11NO2
product | {4-Bromo-2-[2-(3-methoxybenzyl)oxazol-4-yl]phenoxy}acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(OC1)CC1=CC(=CC=C1)OC | C19H16BrNO5
